US05061712
36.8 g (0.138 mol) of 1-benzyl-3-benzylaminopyrrolidine are hydrogenated in 160 ml of methanol over 5 g of 5% strength palladium on active charcoal at 130° C. under a hydrogen pressure of 100 bar for 10 hours. The catalyst is filtered off and 16.6 g (0.138 mol) of 71% strength pivalaldehyde are added to the filtrate, while stirring, after which the temperature rises from 20° C. to 28° C. The mixture is subsequently stirred for 30 minutes, the methanol is removed on a rotary evaporator and the residue is distilled. 12.7 g of 3-(2,2-dimethyl-propylidene-amino)-pyrrolidine of boiling point: 61° C./10 mbar are obtained with a purity, determined by gas chromatography, of 97%, corresponding to a yield of 58% of theory.

reactant | 1-benzyl-3-benzylaminopyrrolidine | 0.138 mol, 36.8 g | C(C1=CC=CC=C1)N1CC(CC1)NCC1=CC=CC=C1 | C18H22N2
reactant | charcoal | C | CH4
solvent | methanol | 160 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 3-(2,2-dimethyl-propylidene-amino)-pyrrolidine | 12.7 g, yield of 58% | CC(C=NC1CNCC1)(C)C | C9H18N2
